US06002008
N-{3-Cyano-4-[(3,4-difluorophenyl)amino]-6-quinolinyl}-2-propenamide
Dissolved 1.00 g (3.37 mmol) 6-amino-4-[(3,4-difluorophenyl)amino]-3-quinolinecarbonitrile in 2 ml DMF, added 12 ml THF, and chilled to 0° C. under N2. Added 517 μl (3.71 mmol) triethylamine and 310 μl (3.72 mmol) acryloyl chloride. Removed ice bath a 15 minutes. At 3.5 hours stripped solvent and slurried residue with dilute sodium bicarbonate. Collected solids, washed with water, and air dried. Boiled in ethyl acetate, collected solids and dried in vacuo, giving 332 mg of yellow solid: mass spectrum (electrospray m/e): M+H=351.1.

reactant | 6-amino-4-[(3,4-difluorophenyl)amino]-3-quinolinecarbonitrile | 3.37 mmol, 1.00 g | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=C(C=C1)F)F | C16H10F2N4
reactant | triethylamine | 3.71 mmol, 517 μl | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 3.72 mmol, 310 μl | C(C=C)(=O)Cl | C3H3ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | THF | 12 ml | C1CCOC1 | C4H8O
product | N-{3-Cyano-4-[(3,4-difluorophenyl)amino]-6-quinolinyl}-2-propenamide | 332 mg | C(#N)C=1C=NC2=CC=C(C=C2C1NC1=CC(=C(C=C1)F)F)NC(C=C)=O | C19H12F2N4O
